US07078414B2
1.78 g (33 mmol) of sodium methoxide are added at a temperature in the region of 20° C. under an argon atmosphere to 20 mL of methanol. After complete dissolution, 3.34 g (35 mmol) of guanidine hydrochloride are added. After stirring at a temperature in the region of 20° C. for 0.5 hour, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is suspended in 25 mL of 1,2-dimethoxyethane and then again concentrated to dryness. The residue is suspended in a mixture of 75 mL of tetrahydrofuran and 50 mL of dichloromethane at a temperature in the region of 20° C. under an argon atmosphere and then 1.17 g (4.1 mmol) of 3-chlorocarbonyl-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole, dissolved in 25 mL of chloroform, are added thereto. After stirring at a temperature in the region of 20° C. for 18 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is triturated in 100 mL of water. After filtering, a gum is obtained, which gum is triturated in 50 mL of methanol and filtered. The solution obtained is partially concentrated to a volume of 5 to 10 mL and then purified by silica gel chromatography [eluent: chloroform/methanol (90/10 and then 70/30 by volume)]. After concentrating the fractions under reduced pressure, an oil is obtained, which oil is dissolved in ethanol and to which is added 4 mL of a 5.3N solution of hydrochloric acid in dioxane. The solution obtained is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is triturated in a mixture of isopropanol and isopropyl acetate. 0.96 g of 3-guanidinocarbonyl-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole dihydrochloride is thus obtained in the form of a yellow solid which decomposes at a temperature of greater than 260° C. Mass spectrum (EI): m/e 307 (M+) m/e 248. IR spectrum (KBr): 3371, 3103, 2622, 1694, 1599, 1495, 1423, 1308, 1251, 1194, 1093 and 754 cm−1.

reactant | sodium methoxide | 33 mmol, 1.78 g | C[O-].[Na+]
reactant | guanidine hydrochloride | 35 mmol, 3.34 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole | 4.1 mmol, 1.17 g | ClC(=O)C1=CN(C(=C1C)C)C1=CC=NC2=CC=CC=C12 | C16H13ClN2O
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | 3-guanidinocarbonyl-4,5-dimethyl-1-(quinol-4-yl)-1H-pyrrole dihydrochloride | 0.96 g | Cl.Cl.N(C(=N)N)C(=O)C1=CN(C(=C1C)C)C1=CC=NC2=CC=CC=C12 | InChI=1S/C17H17N5O.2ClH/c1-10-11(2)22(9-13(10)16(23)21-17(18)19)15-7-8-20-14-6-4-3-5-12(14)15;;/h3-9H,1-2H3,(H4,18,19,21,23);2*1H
